US09315542B2
(S)-Benzyl 2-((S)-4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenyl-N-((pivaloyloxy)methyl)butanamido)pentanamido)-3-phenylpropanoate (7)
Referring to FIG. 45, DIPEA (270 μL, 1.6 mmol, 2.5 eq) was added to a mixture of acid (S)-4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenyl-N-((pivaloyloxy)methyl)butanamido)pentanoic acid (345 mg, 0.64 mmol), H-Phe-OBn (283 mg, 0.97 mmol, 1.5 eq) and HATU (370 mg, 0.97 mmol, 1.5 eq) in CH2Cl2 (10 mL) and the mixture was stirred for four hours at RT. The mixture was poured into water and extracted twice with CH2Cl2. The combined organic extracts were dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography (SiO2, 0-80% EtOAc in heptanes) and product (330 mg, 67%) was isolated as a colorless oil.

reactant | DIPEA | 1.6 mmol, 270 μL, 2.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenyl-N-((pivaloyloxy)methyl)butanamido)pentanoic acid | 0.64 mmol, 345 mg | CC(C[C@@H](C(=O)O)N(C([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)COC(C(C)(C)C)=O)C | C28H43N3O7
reactant | H-Phe-OBn | 0.97 mmol, 283 mg, 1.5 eq | N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C16H17NO2
reactant | HATU | 0.97 mmol, 370 mg, 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (S)-Benzyl 2-((S)-4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenyl-N-((pivaloyloxy)methyl)butanamido)pentanamido)-3-phenylpropanoate | 330 mg, 67% | CC(C[C@@H](C(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)N(C([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)COC(C(C)(C)C)=O)C | C44H58N4O8
